US05672588
Thiophenol (1.5 g, 14 mmol) was dissolved in dry THF (100 ml) and a 60% oil dispersion of sodium hydride (0.30 g, 14 mmol) was added in portions under nitrogen. After stirring for 15 min. at room temperature, the mesylate ester of N-tert-butoxycarbonyl-2-hydroxypropylamine (3.2 g, 14 mmol) was added in three portions and the reaction mixture was heated at 70° C. for 18 h. After cooling, water (30 ml) was added, the aqueous phase was separated and washed with dichloromethane (50 ml). The combined organic phases were dried (MgSO4) and evaporated to give (R)- N-tertbutyloxycarbonyl-1-phenylthio-2-propylamine as a fawn oil (3.2 g, 85%), TLC Rf 0.64 [SiO2 : heptanethyl acetate (1:1)].

reactant | Thiophenol | 14 mmol, 1.5 g | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydride | 14 mmol, 0.30 g | [H-].[Na+]
reactant | N-tert-butoxycarbonyl-2-hydroxypropylamine | 14 mmol, 3.2 g | C(C)(C)(C)OC(=O)NCC(C)O | C8H17NO3
reactant | water | 30 ml | O | H2O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
product | (R)- N-tertbutyloxycarbonyl-1-phenylthio-2-propylamine | 3.2 g, 85% | C(C)(C)(C)OC(=O)N[C@@H](CSC1=CC=CC=C1)C | C14H21NO2S
